US07485637B2
7b: (2-Isopropoxy-5-methanesulfonyl-phenyl)-[4-(4-methanesulfonyl-phenyl)-3,6-dihydro-2H-pyridin-1-yl]-methanone
According to the procedure described for the synthesis of example 4, step f, the title compound has been synthesized 2-isopropoxy-5-methanesulfonyl-benzoic acid and 4-(4-Methanesulfonyl-phenyl)-1,2,3,6-tetrahydro-pyridine. MS (m/e): 495.4 (M+NH4+, 100%)

reactant | 2-isopropoxy-5-methanesulfonyl-benzoic acid | C(C)(C)OC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C11H14O5S
reactant | 4-(4-Methanesulfonyl-phenyl)-1,2,3,6-tetrahydro-pyridine | CS(=O)(=O)C1=CC=C(C=C1)C=1CCNCC1 | C12H15NO2S
product | (2-Isopropoxy-5-methanesulfonyl-phenyl)-[4-(4-methanesulfonyl-phenyl)-3,6-dihydro-2H-pyridin-1-yl]-methanone | C(C)(C)OC1=C(C=C(C=C1)S(=O)(=O)C)C(=O)N1CCC(=CC1)C1=CC=C(C=C1)S(=O)(=O)C | C23H27NO6S2
